### PR TITLE
[Merged by Bors] - feat(RingTheory/Nilpotent): prepare exp calculations

### PR DESCRIPTION
**Pull request by jano-wol**
Changes for IsNilpotent.exp calculations
---
This PR introduces changes and helper lemmas to simplify working with the `IsNilpotent.exp`.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/Derivation/Basic.lean [hunk 1]
```diff
@@ -390,13 +387,13 @@ end Inner
 
 section ExpNilpotent
 
-variable {R L : Type*} [Field R] [CharZero R] [LieRing L] [LieAlgebra R L] (D : LieDerivation R L L)
+variable {R L : Type*} [Field R] [LieRing L] [LieAlgebra R L] [LieAlgebra ℚ L]
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Derivation/Basic.lean:390]: Now that we provide `[LieAlgebra ℚ L]` as extra data, we can weaken the assumptions on `R`:
```suggestion
variable {R L : Type*} [CommRing R] [LieRing L] [LieAlgebra R L] [LieAlgebra ℚ L]
```

File: Mathlib/Algebra/Lie/Derivation/Basic.lean [hunk 2]
```diff
@@ -411,12 +408,14 @@ noncomputable def exp (h : IsNilpotent D.toLinearMap) :
       simp only [AddHom.toFun_eq_coe, LinearMap.coe_toAddHom, ← LinearMap.comp_apply,
         ← LinearMap.mul_eq_comp, h.exp_mul_exp_neg_self, LinearMap.one_apply] }
 
-lemma exp_apply [Module ℚ L] (h : IsNilpotent D.toLinearMap) :
+lemma exp_apply (h : IsNilpotent D.toLinearMap) :
     exp D h = IsNilpotent.exp D.toLinearMap := by
   ext x
   dsimp [exp]
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Derivation/Basic.lean:414]: This becomes true by definition:
```suggestion
    exp D h = IsNilpotent.exp D.toLinearMap :=
  rfl
```

File: Mathlib/Algebra/Lie/Derivation/Basic.lean [hunk 3]
```diff
@@ -411,12 +408,14 @@ noncomputable def exp (h : IsNilpotent D.toLinearMap) :
...
-  convert rfl
-  subsingleton
+
+lemma exp_map_apply (h : IsNilpotent D.toLinearMap) (l : L) :
+    exp D h l = IsNilpotent.exp D.toLinearMap l := by
+  exact (DFunLike.congr (id ((exp_apply D h))) rfl)
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Derivation/Basic.lean:418]: This is exactly the job for `congr_fun`:
```suggestion
    exp D h l = IsNilpotent.exp D.toLinearMap l :=
  DFunLike.congr_fun (exp_apply D h) l
```

File: Mathlib/RingTheory/Nilpotent/Exp.lean [hunk 4]
```diff
@@ -62,6 +63,19 @@ theorem exp_eq_sum {a : A} {k : ℕ} (h : a ^ k = 0) :
...
+      (exp a) • m = ∑ i ∈ range k, ((i.factorial : ℚ)⁻¹ • (a ^ i)) • m := by
+  rcases le_or_lt (nilpotencyClass a) k with h₀ | h₀
+  · rw [exp_eq_sum (pow_eq_zero_of_le h₀ (pow_nilpotencyClass hn)), sum_smul]
+  dsimp [exp]
+  rw [sum_smul, (sum_range_add_sum_Ico _ (Nat.le_of_succ_le h₀)).symm]
+  suffices ∑ i ∈ Ico k (nilpotencyClass a), ((i.factorial : ℚ)⁻¹ • (a ^ i)) • m = 0 by
+    rw [this, add_zero]
+  exact sum_eq_zero fun r h₂ => by
+    rw [smul_assoc, (pow_sub_mul_pow a (mem_Ico.1 h₂).1).symm, mul_smul, h, smul_zero (a ^ (r - k)),
+      smul_zero]
```
Comment (ocfnash) [inline Mathlib/RingTheory/Nilpotent/Exp.lean:77]: Just nitpicks. In particular I highlight:
- if you need to rewrite backwards you can use the syntactic sugar `←` instead of `.symm`
- I _think_ this lemma is likely to be slightly more convenient with right-associated scalar actions
- the name deserves a tweak, especially the use of `_apply` in the absence of a function should be avoided

How about:
```suggestion
theorem exp_smul_eq_sum {M : Type*} [AddCommGroup M] [Module A M] [Module ℚ M] {a : A} {m : M}
    {k : ℕ} (h : (a ^ k) • m = 0) (hn : IsNilpotent a) :
      exp a • m = ∑ i ∈ range k, (i.factorial : ℚ)⁻¹ • (a ^ i) • m := by
  rcases le_or_lt (nilpotencyClass a) k with h₀ | h₀
  · simp_rw [exp_eq_sum (pow_eq_zero_of_le h₀ (pow_nilpotencyClass hn)), sum_smul, smul_assoc]
  rw [exp, sum_smul, ← sum_range_add_sum_Ico _ (Nat.le_of_succ_le h₀)]
  suffices ∑ i ∈ Ico k (nilpotencyClass a), ((i.factorial : ℚ)⁻¹ • (a ^ i)) • m = 0 by
    simp_rw [this, add_zero, smul_assoc]
  refine sum_eq_zero fun r h₂ ↦ ?_
  rw [smul_assoc, ← pow_sub_mul_pow a (mem_Ico.1 h₂).1, mul_smul, h, smul_zero, smul_zero]
```

**Review by ocfnash — APPROVED** [review]
Thanks!

Please apply the suggestions and then feel free to merge :)

bors d+

File: Mathlib/Algebra/Lie/Derivation/Basic.lean (hunk 2 above)
Comment (jano-wol) [reply Mathlib/Algebra/Lie/Derivation/Basic.lean:414]: Add reviewer golf

File: Mathlib/Algebra/Lie/Derivation/Basic.lean (hunk 3 above)
Comment (jano-wol) [reply Mathlib/Algebra/Lie/Derivation/Basic.lean:418]: Add reviewer golf

File: Mathlib/RingTheory/Nilpotent/Exp.lean (hunk 4 above)
Comment (jano-wol) [reply Mathlib/RingTheory/Nilpotent/Exp.lean:77]: Add reviewer improvement
